US06060485
Preparation of N-(1-benzyl-4-piperidinyl)-2-butoxy-3-methyl-2-phenylbutanamide (the invention compound, Compound No. 4)
To a solution of N-(1-benzyl-4-piperidinyl)-2-hydroxy-3-methyl-2-phenylbutanamide (20.0 g) in DMF (200 ml) was added sodium hydride (9.0 g). The resulting mixture was stirred at room temperature for one hour, followed by the dropwise addition of butyl iodide (8.3 ml) and a solution of tetra-n-butylammonium iodide (1.8 g) in DMF (30 ml) under ice cooling. Two hours later, butyl iodide (8.3 ml) and a solution of tetra-n-butylammonium iodide (1.8 g) in DMF (30 ml) were added dropwise again over 15 minutes under ice cooling, followed by stirring overnight at room temperature. The reaction mixture was poured into ice water (500 ml). The mixture was extracted with ethyl acetate (300 ml×2) to separate the organic layer. The organic layer so obtained was washed with water and dried over anhydrous sodium sulfate. The solvent was then removed under pressure. To the residue, 100 ml of ether and 100 ml of hexane were added. After the starting materials so precipitated were filtered off, the solvent was removed under reduced pressure. The residue was purified by a silica gel column to obtain the invention compound (Compound No. 4, 6.50 g, 28.2%) as a colorless oil.

reactant | N-(1-benzyl-4-piperidinyl)-2-hydroxy-3-methyl-2-phenylbutanamide | 20.0 g | C(C1=CC=CC=C1)N1CCC(CC1)NC(C(C(C)C)(C1=CC=CC=C1)O)=O | C23H30N2O2
reactant | sodium hydride | 9.0 g | [H-].[Na+]
reactant | butyl iodide | 8.3 ml | C(CCC)I | C4H9I
reactant | butyl iodide | 8.3 ml | C(CCC)I | C4H9I
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
catalyst | tetra-n-butylammonium iodide | 1.8 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
catalyst | tetra-n-butylammonium iodide | 1.8 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | N-(1-benzyl-4-piperidinyl)-2-butoxy-3-methyl-2-phenylbutanamide | C(C1=CC=CC=C1)N1CCC(CC1)NC(C(C(C)C)(C1=CC=CC=C1)OCCCC)=O | C27H38N2O2
